US04125729
Methyl α-(p-tert-butylphenoxy)-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate
In a manner similar to Example 16, 7.62 g of methyl α-bromo-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate was reacted with 3.75 g of p-tert-butylphenol to give 6.6 g of product as an amber oil.

reactant | methyl α-bromo-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate | 7.62 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC=1C=C(C=CC1)C(F)(F)F | C16H12BrF3O3
reactant | p-tert-butylphenol | 3.75 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
product | Methyl α-(p-tert-butylphenoxy)-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate | 6.6 g | C(C)(C)(C)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC=2C=C(C=CC2)C(F)(F)F)C=C1 | C26H25F3O4
